US08980911B2
A mixture of (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (0.05 g, 0.135 mmol), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.011 g, 0.0135 mmol), potassium carbonate (0.055 g, 0.40 mmol), pyridine-3-boronic acid (1.1 equiv) and water (0.5 mL) in acetonitrile (2.5 mL) was heated in a sealed vial under microwave irradiation at 110° C. for 25 minutes. Acetonitrile was removed under vacuum and the residue was diluted with water (25 mL) and extracted with ethyl acetate (2×25 mL). The combined organic layer was washed with water, dried over anhydrous sodium sulphate and concentrated to give crude product which was purified by silica gel column chromatography using ethyl acetate and hexane as eluent to yield [2,6-dichloro-4-(pyridin-3-yl)phenyl](1H-pyrrolo[3,2-c]pyridin-1-yl)methanone.

reactant | (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | 0.135 mmol, 0.05 g | BrC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C14H7BrCl2N2O
reactant | potassium carbonate | 0.40 mmol, 0.055 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine-3-boronic acid | 1.1 equiv | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | water | 0.5 mL | O | H2O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.0135 mmol, 0.011 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | [2,6-dichloro-4-(pyridin-3-yl)phenyl](1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | ClC1=C(C(=CC(=C1)C=1C=NC=CC1)Cl)C(=O)N1C=CC=2C=NC=CC21 | C19H11Cl2N3O
